US04683222
N-Octadecyl-L-rhamnopyranosylamine
9 g of L-rhamnose and 13.5 g of stearylamine in 100 ml of 2-propanol and 50 ml of water were stirred at 50° C. until a clear solution had resulted. After 50 hours at room temperature, the crystals were filtered off with suction, washed with ethanol and ether and dried in vacuo. Yield: 17.4 g.

reactant | L-rhamnose | 9 g | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
reactant | stearylamine | 13.5 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
solvent | water | 50 ml | O | H2O
product | N-Octadecyl-L-rhamnopyranosylamine | C(CCCCCCCCCCCCCCCCC)NC1[C@H](O)[C@H](O)[C@@H](O)[C@@H](O1)C | C24H49NO4
